US06599890B1
A mixture of (2R,4S)-6-methoxy-piperidine-1,2,4-tricarboxylic acid 1-benzyl ester 2-tert-butyl ester 4-methyl ester (4.85 g, 11.9 mmol) and 10% palladium on carbon (500 mg) in 100 mL of ethanol was shaken under a 45 psi atmosphere of hydrogen gas for 1.5 hours. The mixture was filtered through nylon and the filtrate was concentrated to provide (2R,4R)-piperidine-2,4-dicarboxylic acid 2-tert-butyl ester 4-methyl ester as light yellow oil, which was used in the subsequent step without further purification.

reactant | (2R,4S)-6-methoxy-piperidine-1,2,4-tricarboxylic acid 1-benzyl ester 2-tert-butyl ester 4-methyl ester | 11.9 mmol, 4.85 g | COC(=O)[C@H]1C[C@@H](N(C(C1)OC)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C21H29NO7
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | (2R,4R)-piperidine-2,4-dicarboxylic acid 2-tert-butyl ester 4-methyl ester | COC(=O)[C@H]1C[C@@H](NCC1)C(=O)OC(C)(C)C | C12H21NO4
